US06451804B1
To 3-(2-chlorophenyl)-7-methylthio-1-phenyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (2 g) in 20 mL of tetrahydrofuran at 0° C. was added a solution of 8.1 g of Oxone® in 24 mL of water. The mixture was stirred for 5 hours at room temperature, diluted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, and evaporated to give 2 g of 3-(2-chlorophenyl)-7-methanesulfonyl-1-phenyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one, m.p. 185.8-186.3° C.

reactant | 3-(2-chlorophenyl)-7-methylthio-1-phenyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 2 g | ClC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC=CC=C1)=O | C19H15ClN4OS
reactant | Oxone | 8.1 g | OOS(=O)[O-].[K+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 24 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-chlorophenyl)-7-methanesulfonyl-1-phenyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 2 g | ClC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=CC=C1)=O | C19H15ClN4O3S
